US07994203B2
3-(2,4-Dichloro-phenyl)-7-(3,5-dimethyl-pyrazol-1-yl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole
N′-[3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yl]-N′-tert-butoxy carbonyl-hydrazinecarboxylic acid tert-butyl ester (Intermediate JA) (50 mg, 0.098 mmol), acetylacetone (0.514 ml, 4.99 mmol) and AcOH (5 ml) are stirred at 85° C. for 54 hours. The reaction is allowed to cool to RT and added to water (50 ml). The product is extracted into EtOAc (2×50 ml) and the combined organics are washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product is purified by ISCO combiflash chromatography, eluting with 0 to 100% (iso-hexane/EtOAc) on a 12 g SiO2-column. The resulting gum is crystallised by dissolving in hot EtOAc, adding iso-hexane and scratching and allowing to cool at 0° C. over night. The title compound 3-(2,4-dichloro-phenyl)-7-(3,5-dimethyl-pyrazol-1-yl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole is isolated as a yellow solid; MS: m/z 375.12 [M+H]+; 1H NMR (400.13 MHz (CDCl3) δ 7.60 (2H, m), 7.44 (1H, d), 6.01 (1H, s), 2.38 (3H, s), 2.33 (3H, s), 2.27 (3H, s), 2.22 (3H, s)

reactant | N′-[3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-yl]-N′-tert-butoxy carbonyl-hydrazinecarboxylic acid tert-butyl ester | 0.098 mmol, 50 mg | C(C)(C)(C)OC(=O)NN(C(=O)OC(C)(C)C)C=1C(=NN2C1OC(=C2C2=C(C=C(C=C2)Cl)Cl)C)C | C23H28Cl2N4O5
reactant | acetylacetone | 4.99 mmol, 0.514 ml | C(C)(=O)CC(C)=O | C5H8O2
reactant | AcOH | 5 ml | CC(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 3-(2,4-dichloro-phenyl)-7-(3,5-dimethyl-pyrazol-1-yl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)N2N=C(C=C2C)C | C18H16Cl2N4O
